US08217035B2
To a solution of N1-(6-chloro-2-morpholinopyrimidin-4-yl)-N2-phenylethane-1,2-diamine (100 mg, 0.3 mmol) in DCM (15 mL) at 0° C. under nitrogen, a solution of phosgene in toluene (1.89 M, 0.32 mL, 0.6 mmol) was slowly added. After 20 minutes, the reaction was allowed to warm to RT. After 18 hours, DIEA (0.42 mL, 2.4 mmol) was added and the reaction solution was heated to 40-50° C. for 40 hours. The reaction mixture was evaporated under reduced pressure and the crude product was purified by silica gel chromatography eluting with 70% EtOAc/hexane to give 1-(6-chloro-2-morpholinopyrimidin-4-yl)-3-phenylimidazolidin-2-one as a white solid (94 mg, 87%). LC/MS (m/z): 360.1 (MH+), Rt 3.41 minutes.

reactant | N1-(6-chloro-2-morpholinopyrimidin-4-yl)-N2-phenylethane-1,2-diamine | 0.3 mmol, 100 mg | ClC1=CC(=NC(=N1)N1CCOCC1)NCCNC1=CC=CC=C1 | C16H20ClN5O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.6 mmol, 1.89 M, 0.32 mL | C1(=CC=CC=C1)C | C7H8
reactant | DIEA | 2.4 mmol, 0.42 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-chloro-2-morpholinopyrimidin-4-yl)-3-phenylimidazolidin-2-one | 94 mg, 87% | ClC1=CC(=NC(=N1)N1CCOCC1)N1C(N(CC1)C1=CC=CC=C1)=O | C17H18ClN5O2
